US07915443B2
5-Phenylethynyl-nicotinic acid ethyl ester
To a solution of ethyl 5-bromonicotinate (1.15 g, 5 mmol) in ethyl acetate (20 mL) under an N2 atmosphere, was added triethylamine (1.1 mL, 7.5 mmol, 1.5 eq.), phenyl acetylene (0.766 g, 7.5 mmol, 1.5 eq.), dichloro-bis(triphenylphosphine)-palladium(II) (176 mg, 0.25 mmol, 0.05 eq.), and copper iodide (10 mg, 0.05 mmol, 0.01 eq). The reaction mixture was heated at 50° C. for 20 h before being cooled to room temperature, filtered through a pad of celite, and solvent evaporated to provide a dark brown oil. Silica gel column chromatography (9/1-4/1 hexanes/EtOAc elution) provided the title compound as a pale yellow oil (1.26 g, yield 100%). 1H NMR (300 MHz, CDCl3) δ 9.11 (d, J=1.8 Hz, 1H), 8.87 (d, J=2.1 Hz, 1H), 8.39 (dd, J=1.8, 2.1 Hz, 1H), 7.56-7.53 (m, 2H), 7.40-7.30 (m, 3H), 4.42 (q, J=7.2 Hz, 2H), 1.43 (t, J=7.2 Hz, 3H); ESI-MS m/z 251.9 (M+H)+.

reactant | ethyl 5-bromonicotinate | 5 mmol, 1.15 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | triethylamine | 7.5 mmol, 1.1 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | phenyl acetylene | 7.5 mmol, 0.766 g, 1.5 eq. | C1(=CC=CC=C1)C#C | C8H6
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.05 mmol, 10 mg, 0.01 eq | [Cu](I)I
product | 5-Phenylethynyl-nicotinic acid ethyl ester | 1.26 g, yield 100% | C(C)OC(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O | C16H13NO2
